US06921763B2
To a mixture of 2-amino-4-(trifluoromethoxy)phenol (0.9 g, 0.0047 mol) in tetrahydrofuran (60 mL) was added 4-bromophenyl isothiocyanate (1 g, 0.0047 mol) at room temperature. The mixture was stirred for 16 hours at room temperature. Anhydrous copper sulfate (7.1 g, 0.0443 mol, 9.43 eq.), triethylamine (0.67 mL, 0.0047 mol, 1 eq.), and silica gel (8.5 g) were added to the reaction mixture. The mixture was stirred for 4 hours at room temperature. The solvent was removed under reduced pressure. The mixture was filtered through silica gel pad using 25% ethyl acetate/n-heptane as a mobile phase to give orange colored solid. The solid was purified by flash column chromatography on silica using 0%-25% ethyl acetate/n-heptane as a mobile phase. The solvent was removed, and the residue was triturated with n-heptane to give N2-(4-bromophenyl)-5-(trifluoromethoxy)-1,3-benzoxazol-2-amine (0.9 g, 0.0024 mol).

reactant | 2-amino-4-(trifluoromethoxy)phenol | 0.0047 mol, 0.9 g | NC1=C(C=CC(=C1)OC(F)(F)F)O | C7H6F3NO2
reactant | 4-bromophenyl isothiocyanate | 0.0047 mol, 1 g | BrC1=CC=C(C=C1)N=C=S | C7H4BrNS
reactant | triethylamine | 0.0047 mol, 0.67 mL, 1 eq. | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
catalyst | copper sulfate | 0.0443 mol, 7.1 g, 9.43 eq. | S(=O)(=O)([O-])[O-].[Cu+2]
product | N2-(4-bromophenyl)-5-(trifluoromethoxy)-1,3-benzoxazol-2-amine | 0.0024 mol, 0.9 g | BrC1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)OC(F)(F)F | C14H8BrF3N2O2
